US05750769
To an agitated mixture of methyl 3,3-dimethyl-5-oxopentanoate (1.0 g), 1,1-dichloro-2,2,2-trifluoroethane (1.06 g) and dry tetrahydrofuran (10 cm3), maintained at -78° C., was added, over a period of 5 minutes, sodium t-butoxide (1.66 cm3 of a 42% w/w solution in dimethylformamide) after which the mixture continued to be agitated at -78° C. for a further 60 minutes. The reaction was quenched with saturated ammonium chloride at low temperature and the mixture allowed to warm to the ambient temperature. After addition of water (20 cm3) and separation of the organic phase, the aqueous phase was extracted with di-isopropyl ether (3×30 cm3) and the extracts combined with the organic phase, which was washed with brine (2×10 cm3) and dried over anhydrous magnesium sulphate. After removal of the volatile components by evaporation under reduced pressure the residual oil was purified by column chromatography (silica gel column eluted with a 9:1 mixture (by volume) of hexane and ethyl acetate) to give methyl 6,6-dichloro-3,3-dimethyl-5-hydroxy-7,7,7-trifluoroheptanoate as a colourless oil (yield 56%).

reactant | methyl 3,3-dimethyl-5-oxopentanoate | 1.0 g | CC(CC(=O)OC)(CC=O)C | C8H14O3
reactant | 1,1-dichloro-2,2,2-trifluoroethane | 1.06 g | ClC(C(F)(F)F)Cl | C2HCl2F3
reactant | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
reactant | sodium t-butoxide | CC(C)([O-])C.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 6,6-dichloro-3,3-dimethyl-5-hydroxy-7,7,7-trifluoroheptanoate | yield 56% | ClC(C(CC(CC(=O)OC)(C)C)O)(C(F)(F)F)Cl | C10H15Cl2F3O3
